US06710185B2
1-methyl-N-(3,4,5-trimethoxyphenyl)-1H-indole-5-sulfonamide
A 0° C. slurry of N-(3,4,5-trimethoxyphenyl)-1-methylindoline-5-sulfonamide (11.3 g, 0.030 mol) in THF (130 mL) was treated with 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (7.15 g, 0.0315 mol), stirred for 4 hours, warmed to 25° C., and stirred for 10 hours. The mixture was concentrated to half of its original volume, diluted with methyl tert-butyl ether (70 mL), cooled to 0° C., stirred for 2 hours, and filtered. The resulting solid was washed with methyl tert-butyl ether (50 mL), dried, and recrystallized from acetonitrile and methyl tert-butyl ether to provide 9.2 g of the desired product (81%).

reactant | N-(3,4,5-trimethoxyphenyl)-1-methylindoline-5-sulfonamide | 0.030 mol, 11.3 g | COC=1C=C(C=C(C1OC)OC)NS(=O)(=O)C=1C=C2CCN(C2=CC1)C | C18H22N2O5S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.0315 mol, 7.15 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 1-methyl-N-(3,4,5-trimethoxyphenyl)-1H-indole-5-sulfonamide | 9.2 g, 81% | CN1C=CC2=CC(=CC=C12)S(=O)(=O)NC1=CC(=C(C(=C1)OC)OC)OC | C18H20N2O5S
